US07169789B2
N-(2,4-Difluorophenyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2-nitrophenyl}urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitroaniline (100 mg) was dissolved in chloroform (10 ml) and triethylamine (1 ml), and a solution of triphosgene (96 mg) in chloroform was then added to the solution. The mixture was heated under reflux for 5 min. Next, 2,4-difluoroaniline (45 mg) was added to the reaction solution, and the mixture was further heated under reflux overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was supported on diatomaceous earth, followed by extraction with chloroform. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/acetone (3/1) to give 81 mg (yield 56%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitroaniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C17H15N3O5
reactant | triphosgene | 96 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,4-difluoroaniline | 45 mg | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | N-(2,4-Difluorophenyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2-nitrophenyl}urea | 81 mg, yield 56% | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)[N+](=O)[O-] | C24H18F2N4O6
